US05493030
To a solution of 2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-acetaldehyde (5.25g) in THF (70 ml) at -70° C. was added 1N 2-propenylmagnesium bromide in THF (19 ml). The solution was kept at -40° C. for 15 minutes, then saturated aqueous ammonium chloride (80 ml) was added. The mixture was extracted with ether, and the extract dried and evaporated, to give 4-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-hydroxy-2-methylbut-1-ene, mp 133°-4° C. (tert-butylmethyl ether/hexane).

reactant | 2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-acetaldehyde | 5.25g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1CC=O)OC)C)=O | C18H26O5Si
reactant | 2-propenylmagnesium bromide | 1N | C(C=C)[Mg]Br
reactant | ammonium chloride | 80 ml | [Cl-].[NH4+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 19 ml | C1CCOC1 | C4H8O
product | 4-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-hydroxy-2-methylbut-1-ene | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1CC(C(=C)C)O)OC)C)=O | C21H32O5Si
